US05744465
(R)-2,2-Dimethyl-1,3-dioxolane-4-carboxaldehyde
A 0° C. mixture, under argon, of 13.7 g of 1,2,5,6-di-O-isopropylidene-D-mannitol, 200 ml of methylene chloride, 72.3g of potassium carbonate and 24.3 g of lead tetraacetate is stirred for 11/2 hours. The suspension is filtered through diatomaceous earth and concentrated in vacuo. The oil is purified by distillation at water aspirator pressure to give 10.0 g (boiling point =62°-66° C.) of the desired product.

reactant | 1,2,5,6-di-O-isopropylidene-D-mannitol | 13.7 g | CC1(OC[C@@H](O1)[C@H]([C@@H]([C@H]2COC(O2)(C)C)O)O)C | C12H22O6
reactant | potassium carbonate | 72.3g | C([O-])([O-])=O.[K+].[K+]
reactant | lead tetraacetate | 24.3 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (R)-2,2-Dimethyl-1,3-dioxolane-4-carboxaldehyde | CC1(OC[C@@H](O1)C=O)C | C6H10O3
